US07371769B2
c) Preparation of 2-methylthio-5-(2-hydroxyethyl)-3,6-dimethyl-3H-pyrimidin-4-one
To a suspension of 2-methylthio-5-(2-hydroxyethyl)-6-methyl-3H-pyrimidin-4-one (34 g, 0.17 mol) in DMF (300 ml) was added slowly one equivalent of sodium hydride (55%, 7.4 g). Next was added slowly one equivalent of methyl iodide (10.5 ml). The mixture was stirred for two hours at 50° C., after which most of the DMF was removed in vaccuum. Water was added and the mixture was extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate and then concentrated and purified by flash chromatografy (eluens: ether followed by ether/methanol=9/1). Yield 20.3 g (56%), mp. 117-118° C.

reactant | 2-methylthio-5-(2-hydroxyethyl)-6-methyl-3H-pyrimidin-4-one | 0.17 mol, 34 g | CSC1=NC(=C(C(N1)=O)CCO)C | C8H12N2O2S
reactant | sodium hydride | 7.4 g, one equivalent | [H-].[Na+]
reactant | methyl iodide | 10.5 ml, one equivalent | CI | CH3I
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 2-methylthio-5-(2-hydroxyethyl)-3,6-dimethyl-3H-pyrimidin-4-one | CSC1=NC(=C(C(N1C)=O)CCO)C | C9H14N2O2S
